US07763729B2
Sodium 3-cyano-1-cyclopropyl-6-oxo-1,6-dihydropyridine-2-thiolate
A solution of sodium bis(trimethylsilyl)amide (122 mL of a 1.0M solution in THF, 122 mmol) was added to a solution of cyclopropyl isothiocyanate (4.85 g, 48.9 mmol) and acetonitrile (25.5 mL, 10 eq) in THF (50 mL) at −78° C. The mixture was allowed to warm to r.t. over 2 h. N,N-Dimethyluracil (5.9 g, 49 mmol) and EtOH (60 mL) were added and the mixture heated at reflux for 3 h then stirred at r.t. overnight. Volatiles were removed In vacuo. The residue was taken up in a mixture of EtOH and EtOAc then Et2O was added. The sticky solid was filtered off and dried to give the title compound (11 g, crude) which was used in the next step without further purification.

reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | cyclopropyl isothiocyanate | 48.9 mmol, 4.85 g | C1(CC1)N=C=S | C4H5NS
reactant | acetonitrile | 25.5 mL, 10 eq | C(C)#N | C2H3N
reactant | EtOH | 60 mL | CCO | C2H6O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Sodium 3-cyano-1-cyclopropyl-6-oxo-1,6-dihydropyridine-2-thiolate | 11 g | C(#N)C1=C(N(C(C=C1)=O)C1CC1)[S-].[Na+] | InChI=1S/C9H8N2OS.Na/c10-5-6-1-4-8(12)11(9(6)13)7-2-3-7;/h1,4,7,13H,2-3H2;/q;+1/p-1
